US08809342B2
Step D: (+/−)-1-cyclohexyl-1-{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methanamine
To a solution of crude cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methanone (505 mg, 1.51 mmol), and ammonium acetate (1.19 g, 15.1 mmol) in methanol (7.6 ml) was added sodium cyanoborohydride (0.150 g, 2.26 mmol). The flask was fitted with a reflux condenser and heated to reflux for 12 hours. The reaction was concentrated in vacuo, then diluted with dichloromethane and aqueous 1.0M sodium hydroxide. The mixture was stirred for 30 minutes, whereupon the aqueous layer was extracted with dichloromethane (3×). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. The crude material was diluted in dichloromethane, passed through a plug of SiO2 with 20% methanol in dichloromethane and was concentrated in vacuo. The crude product was used without further purification.

reactant | cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methanone | 1.51 mmol, 505 mg | C1(CCCCC1)C(=O)C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F | C18H17F3N2O
reactant | ammonium acetate | 15.1 mmol, 1.19 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 2.26 mmol, 0.150 g | C(#N)[BH3-].[Na+]
solvent | methanol | 7.6 ml | CO | CH4O
product | (+/−)-1-cyclohexyl-1-{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methanamine | C1(CCCCC1)C(N)C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F | C18H20F3N3
